US07968746B2
Following the amide coupling procedure described in protocol A, 498 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1.99 mmol), 367 mg CDI (2.26 mmol) and 1.4 mL of 7.0M NH3 in MeOH (9.8 mmol) produced 187 mg of 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide as a white solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1.99 mmol, 498 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.26 mmol, 367 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH3 | 7.0M, 1.4 mL | N | H3N
reactant | MeOH | 9.8 mmol | CO | CH4O
product | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxamide | 187 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)N)C)C | C14H19NO3
